US05246915
936 g of N-(2,2-dimethyl-indan-1-yl)glycine methyl ester are added dropwise with cooling to 5° C. to 1817 ml of formic acid. Additionally 664 ml of acetic anhydride are added, and the mixture is kept at room temperature for 18.5 hours. Destillation under vacuum affords 1015 g of N-formyl-N-(2,2-dimethyl-indan-1-yl)glycine methyl ester.

reactant | N-(2,2-dimethyl-indan-1-yl)glycine methyl ester | 936 g | COC(CNC1C(CC2=CC=CC=C12)(C)C)=O | C14H19NO2
reactant | acetic anhydride | 664 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | N-formyl-N-(2,2-dimethyl-indan-1-yl)glycine methyl ester | 1015 g | COC(CN(C1C(CC2=CC=CC=C12)(C)C)C=O)=O | C15H19NO3
